US07816522B2
After adding 30 mg of 2-hydrazinopyrimidine and 50 μl of triethylamine to a solution of 152 mg of {2-(cyanomethyl-4,5-dimethoxyphenyl)-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylimino]-1-methylsulfanylethylidene}carbamic acid methyl ester in 2 ml of DMF, the mixture was stirred overnight at 85° C. under a nitrogen atmosphere. The reaction mixture was concentrated, and the residue was dissolved in 3 ml of methanol and 0.3 ml of acetic acid. After adding 100 mg of sodium cyanotrihydroborate to the solution, the mixture was stirred at room temperature for 1 hour. Water was added to the reaction mixture and extraction was performed with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate. The desiccating agent was filtered off and the filtrate was concentrated under reduced pressure. The residue was purified by NAM silica gel column chromatography (methanol-ethyl acetate) to give (2,3-dimethoxy-5-{[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamino]-(5-oxo-1-pyrimidin-2-yl-4,5-dihydro-1H-[1,2,4]triazol-3-yl)methyl}phenyl)acetonitrile (72 mg) as a light brown solid.

reactant | 2-hydrazinopyrimidine | 30 mg | N(N)C1=NC=CC=N1 | C4H6N4
reactant | triethylamine | 50 μl | C(C)N(CC)CC | C6H15N
reactant | {2-(cyanomethyl-4,5-dimethoxyphenyl)-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylimino]-1-methylsulfanylethylidene}carbamic acid methyl ester | 152 mg | COC(N=C(C(=NC1=CC=C(C=C1)C1=NOC(=N1)C)C1=C(C=C(C(=C1)OC)OC)CC#N)SC)=O | C24H23N5O5S
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | (2,3-dimethoxy-5-{[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylamino]-(5-oxo-1-pyrimidin-2-yl-4,5-dihydro-1H-[1,2,4]triazol-3-yl)methyl}phenyl)acetonitrile | 72 mg | COC1=C(C=C(C=C1OC)C(C1=NN(C(N1)=O)C1=NC=CC=N1)NC1=CC=C(C=C1)C1=NOC(=N1)C)CC#N | C26H23N9O4
